US04537889
C. Preparation of 2-methoxy-4-fluoroacetophenone
To a solution of 13.9 g. of 2-hydroxy-4-fluoroacetophenone and 75 ml. of dried dimethylformamide were added 30 ml. of methyl iodide. The solution was cooled to 0° C. and 4.1 g. of a 50% oil dispersion of sodium hydride were carefully added. After stirring for 1 hour at 0° C., the reaction was extracted with ethyl acetate. The organic extract was washed three times with 200 ml. each of 1N hydrochloric acid. The ethyl acetate solution was then dried and removed in vacuo. This reaction and a subsequent identical reaction provided a total of 28 g. of 2-methoxy-4-fluoroacetophenone as an oil which was used in the subsequent step without further purification.

reactant | 2-hydroxy-4-fluoroacetophenone | C1=CC(=CC=C1C(=O)CO)F | C8H7FO2
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-methoxy-4-fluoroacetophenone | CC(=O)C1=C(C=C(C=C1)F)OC | C9H9FO2
